US08729263B2
From compound 6-(2,6-dimethoxy-4-(1H-pyrazol-4-yl)phenyl)-N-methyl-N-(2,2,6,6-tetramethylpiperidin-4-yl)pyridazin-3-amine (43 mg, 0.095 mmol), following GENERAL METHOD 3-1 for methoxy deprotection using thiophenol (22.1 mg, 0.2 mmol), compound 2-(6-(methyl(2,2,6,6-tetramethylpiperidin-4-yl)amino)pyridazin-3-yl)-5-(1H-pyrazol-4-yl)benzene-1,3-diol was afforded as a pale yellow solid (20 mg, 45% yield) after HPLC purification. LCMS Rt=0.41 min [Method Q], MS (M+1)=423.3. 1H NMR (METHANOL-d4) δ 8.60 (d, J=10.1 Hz, 1H), 7.91 (s, 2H), 7.20 (d, J=10.1 Hz, 1H), 6.66 (s, 2H), 5.01 (t, J=12.4 Hz, 1H), 2.90-3.01 (m, 3H), 1.64-1.73 (m, 2H), 1.52-1.61 (m, 2H), 1.38 (s, 6H), 1.23 (s, 6H).

reactant | 6-(2,6-dimethoxy-4-(1H-pyrazol-4-yl)phenyl)-N-methyl-N-(2,2,6,6-tetramethylpiperidin-4-yl)pyridazin-3-amine | 0.095 mmol, 43 mg | COC1=C(C(=CC(=C1)C=1C=NNC1)OC)C1=CC=C(N=N1)N(C1CC(NC(C1)(C)C)(C)C)C | C25H34N6O2
reactant | thiophenol | 0.2 mmol, 22.1 mg | C1(=CC=CC=C1)S | C6H6S
product | 2-(6-(methyl(2,2,6,6-tetramethylpiperidin-4-yl)amino)pyridazin-3-yl)-5-(1H-pyrazol-4-yl)benzene-1,3-diol | CN(C1=CC=C(N=N1)C1=C(C=C(C=C1O)C=1C=NNC1)O)C1CC(NC(C1)(C)C)(C)C | C23H30N6O2
